2132-08-17 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-8-16**] 02:19 PM
   Blood cultures sent from fistula prior to initiation of HD.
 MULTI LUMEN - START [**2132-8-17**] 02:07 AM
 ARTERIAL LINE - START [**2132-8-17**] 05:42 AM
 FEVER - 102.5
F - [**2132-8-17**] 04:00 AM
   ABG done yesterday morning was improved : 7.31/41/106, continued to
   improve throughout the day
   Had HD, -2.8kg
   Was apneic during SBT off sedation x 1 hour.  OGT placed when
   extubation deferred.
   After HD, got hypotenstive off sedation. Given ~1.7L in boluses,
   initially peripheral dopa started.  Pressures continued to be
   borderline, pt had spiked with rising WBC and lactate of 4.3.
   Considered to be septic.  LIJ CVL and A-line placed. Started on broad
   spectrum abx after pan culturing.  On levo.
   Allergies:
   Haldol (Oral) (Haloperidol)
   swelling;
   Mellaril (Oral) (Thioridazine Hcl)
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Lithium
   Renal Toxicity;
   Depakote (Oral) (Divalproex Sodium)
   elevated ammoni
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 09:23 PM
   Metronidazole - [**2132-8-16**] 09:23 PM
   Ciprofloxacin - [**2132-8-16**] 10:15 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-17**] 12:17 AM
   Midazolam (Versed) - [**2132-8-17**] 01:23 AM
   Fentanyl - [**2132-8-17**] 01:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated/sedated.
   Flowsheet Data as of  [**2132-8-17**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 97 (63 - 110) bpm
   BP: 100/40(58) {100/40(58) - 108/46(66)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 88.8 kg
             Total In:
                                                                  1,074 mL
                                                                  1,192 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                  1,192 mL
   Blood products:
   Total out:
                                                                  2,870 mL
                                                                     20 mL
   Urine:
                                                                     70 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,796 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/36/127/22/1 (10PM)
   Ve: 12.1 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Gen: Intubated, sedated
   HEENT: intubated, OGT in place
   Neck:  Left IJ in place
   Heart: RRR, distant
   Lungs: b/l crackles R>L, w/ scattered wheezes
   Abdomen: soft, NT/ND, +BS
   Extremities: 1+ bilateral edema, pulses difficult to palpate
   Neuro: minimally arousable, not responsible to commands
   Labs / Radiology
   221 K/uL
   9.0 g/dL
   69 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   32 mg/dL
   103 mEq/L
   143 mEq/L
   28.7 %
   27.0 K/uL
        [image002.jpg]
                             [**2132-8-16**]  02:36 AM
                             [**2132-8-16**]  03:32 AM
                             [**2132-8-16**]  06:45 AM
                             [**2132-8-16**]  12:24 PM
                             [**2132-8-16**]  02:10 PM
                             [**2132-8-16**]  10:25 PM
                             [**2132-8-16**]  11:41 PM
   WBC
   15.3
   16.6
   27.0
   Hct
   35.3
   28.1
   28.7
   Plt
   299
   235
   221
   Cr
   11.2
   10.8
   6.5
   TropT
   0.06
   0.06
   TCO2
   23
   24
   22
   25
   Glucose
   140
   82
   69
   Other labs: PT / PTT / INR:13.4/28.2/1.1, CK / CKMB /
   Troponin-T:179/3/0.06, Lactic Acid:4.3 mmol/L, Albumin:3.8 g/dL,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Micro:
   Stool, urine, blood cultures pending
   UA sl positive
   4+ GPCs in pairs and clusters in sputum.
   Assessment and Plan
   Mrs. [**Known lastname 4883**] is a 75yo female with ESRD on HD, bipolar disease,
   hypothyroidism, who presents following missing multiple dialysis
   sessions, with hypertensive emergency and resultant respiratory
   failure.
   .
   # Shock.  Likely septic in setting of leukocytosis, fevers,
   hypotension, elevated lactate.  Given appearance of CXR and sputum gram
   stain feel that most likely source is lungs, although does have
   bacteria in urine.
   -Cover broadly for aspiration/MRSA pneumonia with
   cipro/flagyl/vanc
should also cover any potential line/HD associated
   infection or UTI.  Only prior culture data from this hospital has been
   pan sensitive e. coli in urine.
   -follow up stool, blood, urine and sputum  cultures.  Re-culture if
   spikes.
   -wean levo as tolerated
   -follow up random cortisol
   -monitor CVPs
   -minimize fluids
   .
   # Respiratory failure: pt intubated due to increased work of
   breathing
RR>40 for prolonged period.  Plan was to extubate after
   dialysis, failed SBT, was apneic even while off sedation.  Likely in
   setting of fevers/sepsis. Now has gotten back almost all fluid removed
   at HD during rescusitation.  Unlikely will be able to wean until after
   HD on Monday
   -minimize add
l fluids
   -monitor ABGs, this am was alkalotic in setting of over breathing. Have
   increased sedation and decreased set rate, follow up repeat ECG.  Wean
   settings as tolerated
   -continue treating for probable pneumonia, consider bronch if
   decompensates.
   #ESRD on HD: Typically MWF schedule
   - Continue Sevelamer
   - Renally dose medications
   - HD per renal
   - Hyperkalemia improved after HD yesterday, continue to monitor [**Hospital1 **]
   .
   #HTN. Initially presented with hypertensive emergency after missing
   dialysis, was treated effectively with nitro gtt to temporize her for
   dialysis. In setting of probably evolving sepsis, pt unable to tolerate
   planned fluid removal of 4L with resultant hypotension.
   -hold anytihypertensives while on pressors.
   #Hyperlipidemia: Continue Lipitor.
   .
   #Hypothyroidism: Continue Levoxyl.
   .
   #Asthma: Continue outpatient regimen
   .
   #Psych: Continue outpatient regimen.  Involve psych once pt extubated,
   the are following along.
   .
   #FEN: start TF today, replete lytes PRN
   .
   #Prophylaxis: Heparin SQ, PPI
   .
   #Code: presumed FULL  -- pt has ok'd intubation
   ICU Care
   Nutrition: TF starting today
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2132-8-16**] 02:36 AM
   22 Gauge - [**2132-8-16**] 03:19 AM
   Multi Lumen - [**2132-8-17**] 02:07 AM
   Arterial Line - [**2132-8-17**] 05:42 AM
   Prophylaxis:
   DVT: Hep SC, pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  With daughters [**Name (NI) **] and [**First Name4 (NamePattern1) 4919**]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition:ICU

2132-08-18 05:58:00 Physician Resident Progress Note
24 Hour Events:
 MINI-BAL FLUID CULTURE - At [**2132-8-17**] 10:52 PM
 BLOOD CULTURED - At [**2132-8-18**] 04:50 AM
 FEVER - 101.6
F - [**2132-8-17**] 11:01 AM
   -          Abx broadened to include Zosyn
 Sputum growing S. Pneumonia
 Random cortisol checked and found to be 30
 Psychiatry by to evaluate patient; requests re-consult once pt is
   extubated.
   - Levophed off this AM.
   - Significant amount of secretions
   Allergies:
   Haldol (Oral) (Haloperidol)
   swelling;
   Mellaril (Oral) (Thioridazine Hcl)
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Lithium
   Renal Toxicity;
   Depakote (Oral) (Divalproex Sodium)
   elevated ammoni
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 09:23 PM
   Metronidazole - [**2132-8-17**] 07:57 PM
   Ciprofloxacin - [**2132-8-17**] 10:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-18**] 12:48 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-17**] 10:07 PM
   Fentanyl - [**2132-8-17**] 10:08 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-18**] 12:29 AM
   Other medications:
   Flowsheet Data as of  [**2132-8-18**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 95 (73 - 104) bpm
   BP: 109/48(68) {86/32(49) - 138/52(81)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 88.8 kg
   Height: 62 Inch
    CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  2,171 mL
                                                                    326 mL
   PO:
   TF:
                                                                     10 mL
                                                                     68 mL
   IVF:
                                                                  2,021 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                     78 mL
                                                                     33 mL
   Urine:
                                                                     78 mL
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,093 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.52/30/180/22/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 600
   Physical Examination
   Gen: Intubated, minimally sedated; follows commands to squeeze hands &
   wiggle toes; shakes head
 to pain
   HEENT: intubated, OGT in place
   Neck:  Left IJ in place
   Heart: RRR, distant
   Lungs: b/l crackles R>L, w/ scattered wheezes
   Abdomen: soft, ND, +BS, mild tenderness to palpation throughout
   Extremities: 1+ bilateral edema, pulses difficult to palpate
   Labs / Radiology
   207 K/uL
   7.5 g/dL
   87 mg/dL
   8.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   50 mg/dL
   106 mEq/L
   142 mEq/L
   22.9 %
   19.3 K/uL
        [image002.jpg]
                             [**2132-8-16**]  06:45 AM
                             [**2132-8-16**]  12:24 PM
                             [**2132-8-16**]  02:10 PM
                             [**2132-8-16**]  10:25 PM
                             [**2132-8-16**]  11:41 PM
                             [**2132-8-17**]  08:16 AM
                             [**2132-8-17**]  08:31 AM
                             [**2132-8-17**]  04:05 PM
                             [**2132-8-17**]  04:11 PM
                             [**2132-8-18**]  03:41 AM
   WBC
   16.6
   27.0
   25.2
   19.3
   Hct
   28.1
   28.7
   24.8
   22.9
   Plt
   235
   221
   208
   207
   Cr
   10.8
   6.5
   7.0
   7.4
   8.1
   TropT
   0.06
   0.06
   0.10
   TCO2
   24
   22
   25
   25
   25
   Glucose
   82
   69
   86
   94
   87
   Other labs: PT / PTT / INR:14.6/36.9/1.3, CK / CKMB /
   Troponin-T:359/4/0.10, ALT / AST:16/29, Alk Phos / T Bili:70/0.3,
   Amylase / Lipase:518/27, Lactic Acid:2.5 mmol/L, Albumin:3.0 g/dL,
   LDH:171 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 4883**] is a 75yo female with ESRD on HD, bipolar disease,
   hypothyroidism, who presents following missing multiple dialysis
   sessions, with hypertensive emergency and resultant respiratory
   failure.
   .
   # Shock.  Resolving.  Currently off of pressors.  Was likely septic in
   setting of leukocytosis, fevers, hypotension, elevated lactate.  Given
   appearance of CXR and sputum gram stain feel that most likely source is
   lungs (RML).  Sputum w/ strep pneumo growing.  Random cortisol was 30.
   - Narrow abx coverage to tx strep pneumo (vanc/ctx + azithro, in case
   there is also atypical)
   -follow up stool, blood, urine and sputum  cultures.  Re-culture if
   spikes.
   -monitor CVPs
   .
   # Respiratory failure: pt intubated due to increased work of
   breathing
RR>40 for prolonged period.  Plan was to extubate after
   dialysis as it was initially thought that resp distress was primarily
   due to excess volume.  However, this failed as she was apneic even
   while off sedation.  CXR, leukocytosis & fever all suggest superimposed
   PNA.  Sputum from admission growing strep pneumo.  Likely HAP (as pt
   regularly at HD, rather than VAP as pt was febrile & had WBC before
   48hr of being on vent).  CXR improving s/p HD & abx.  Family reports
   that she had been coughing before presentation & wondered if she might
   have a PNA.
   -Try on Pressure support as pt is more awake & following commands.
   Monitor ABGs.  Try SBT today/early AM tomorrow depending on how she
   does on PS.
   -continue abx for strep pneumo pneumonia
   # Anemia: acute drop since admission from 32
22.  No e/o of gross
   bleeding.
   - check hemolysis labs
   - guaiac stool
   - repeat PM hct & transfuse if con
t to drop
   #ESRD on HD: Typically MWF schedule
   - Continue Sevelamer
   - Renally dose medications
   - HD per renal
   .
   #HTN. Initially presented with hypertensive emergency after missing
   dialysis, was treated effectively with nitro gtt to temporize her for
   dialysis. In setting of probably evolving sepsis, pt unable to tolerate
   planned fluid removal of 4L with resultant hypotension.  Pt currently
   nml BP off all agents.
   -hold anytihypertensives while on pressors.
   #Hyperlipidemia: Continue Lipitor.
   .
   #Hypothyroidism: Continue Levoxyl.
   .
   #Asthma: Continue outpatient regimen
   .
   #Psych: Continue outpatient regimen.  Involve psych once pt extubated,
   the are following along.
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2132-8-17**] 11:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-16**] 02:36 AM
   Multi Lumen - [**2132-8-17**] 02:07 AM
   Arterial Line - [**2132-8-17**] 05:42 AM
   22 Gauge - [**2132-8-17**] 09:00 AM
   Prophylaxis:
   DVT: Heparin SQ,
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU

2132-08-19 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt extubated successfully.
   - Pt not dialyzed.
   - Required 20mg IV labetolol x2 to tx HTN--SBP 170-180s.
   - Pt w/ weak cough.
   Allergies:
   Haldol swelling;
   Thioridazine Unknown;
   Ibuprofen Renal Toxicity;
   Lithium Renal Toxicity;
   Depakote (Oral) (Divalproex Sodium)
   elevated ammoni
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 09:23 PM
   Ciprofloxacin - [**2132-8-17**] 10:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-18**] 12:48 AM
   Metronidazole - [**2132-8-18**] 08:00 AM
   Azithromycin - [**2132-8-18**] 10:00 PM
   Ceftriaxone - [**2132-8-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2132-8-18**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-19**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2132-8-19**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 81 (79 - 96) bpm
   BP: 117/47(73) {104/43(8) - 179/64(107)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 88.8 kg
   Height: 62 Inch
    CVP: 5 (4 - 10)mmHg
   Total In:
                                                                  1,127 mL
                                                                    112 mL
   PO:
                                                                    180 mL
   TF:
                                                                    182 mL
   IVF:
                                                                    595 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    251 mL
                                                                    150 mL
   Urine:
                                                                    251 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    876 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 350 (350 - 386) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.41/37/134/22/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Gen: awake, extubated,
   HEENT:MMM
   Neck:  Left IJ in place
   Heart: RRR, distant
   Lungs: b/l crackles R>L, w/ scattered wheezes
   Abdomen: soft, ND, +BS, mild tenderness to palpation throughout
   Extremities: 1+ bilateral edema, pulses difficult to palpate
   Labs / Radiology
   205 K/uL
   7.2 g/dL
   70 mg/dL
   9.4 mg/dL
   22 mEq/L
   5.3 mEq/L
   66 mg/dL
   105 mEq/L
   140 mEq/L
   22.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2132-8-16**]  11:41 PM
                             [**2132-8-17**]  08:16 AM
                             [**2132-8-17**]  08:31 AM
                             [**2132-8-17**]  04:05 PM
                             [**2132-8-17**]  04:11 PM
                             [**2132-8-18**]  03:41 AM
                             [**2132-8-18**]  08:28 AM
                             [**2132-8-18**]  11:36 AM
                             [**2132-8-18**]  04:54 PM
                             [**2132-8-19**]  03:42 AM
   WBC
   27.0
   25.2
   19.3
   15.2
   12.7
   Hct
   28.7
   24.8
   22.9
   23.4
   22.8
   Plt
   221
   208
   207
   216
   205
   Cr
   6.5
   7.0
   7.4
   8.1
   9.4
   TropT
   0.06
   0.10
   TCO2
   25
   25
   24
   24
   Glucose
   69
   86
   94
   87
   70
   Other labs: PT / PTT / INR:14.6/36.9/1.3, CK / CKMB /
   Troponin-T:359/4/0.10, ALT / AST:16/29, Alk Phos / T Bili:70/0.2,
   Amylase / Lipase:518/27, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   LDH:184 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 4883**] is a 75yo female with ESRD on HD, bipolar disease,
   hypothyroidism, who presents following missing multiple dialysis
   sessions, with hypertensive emergency and resultant respiratory
   failure.
   .
   # Respiratory failure: successfully extubated.  Was initially intubated
   due to increased work of breathing
RR>40 for prolonged period.  Plan
   was to extubate after dialysis as it was initially thought that resp
   distress was primarily due to excess volume.  However, this failed as
   she was apneic even while off sedation.  CXR, leukocytosis & fever all
   suggest superimposed PNA on top of fluid.  Sputum from admission
   growing strep pneumo.  Likely HAP (as pt regularly at HD, rather than
   VAP as pt was febrile & had WBC before 48hr of being on vent).  CXR
   improving s/p HD & abx.  Family reports that she had been coughing
   before presentation & wondered if she might have a PNA.
    -continue abx Vanc/CTX/Azithro for strep pneumo pneumonia (give vanc
   after HD if level <15)
   - HD per renal
   # Anemia: acute drop since admission from 32
22.  No e/o of gross
   bleeding.  Stable w/o transfusion.
   - check hemolysis labs
negative
   - guaiac stool
   - repeat PM hct & transfuse if con
t to drop
   # Shock.  Resolved.  Off of pressors >24hr.  Was likely septic in
   setting of leukocytosis, fevers, hypotension, elevated lactate.  Random
   cortisol was 30.Given appearance of CXR and sputum gram stain feel that
   most likely source is lungs (RML).  Sputum w/ strep pneumo growing.
   - Con
t narrowed abx coverage to tx strep pneumo (vanc/ctx + azithro,
   in case there is also atypical)
   -follow up stool, blood, urine and sputum  cultures.  Re-culture if
   spikes.
   #ESRD on HD: Typically MWF schedule
   - Continue Sevelamer
   - Renally dose medications
   - HD per renal
   .
   #HTN. Initially presented with hypertensive emergency after missing
   dialysis, was treated effectively with nitro gtt to temporize her for
   dialysis. In setting of probably evolving sepsis, pt unable to tolerate
   planned fluid removal of 4L with resultant hypotension.  Pt currently
   nml BP off all agents.
   -slowly restart anytihypertensives; consider resuming lisinopril 20mg
   [**Hospital1 **] tomorrow
   #Hyperlipidemia: Continue Lipitor.
   .
   #Hypothyroidism: Continue Levoxyl.
   .
   #Asthma: Continue outpatient regimen
   .
   #Psych: Continue outpatient regimen.  Call psych now that pt extubated.
   ICU Care
   Nutrition: Sips; S&S c/s
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-16**] 02:30 AM
   Multi Lumen - [**2132-8-17**] 02:07 AM
 DC today
   Arterial Line - [**2132-8-17**] 05:42 AM
 DC today
   20 Gauge - [**2132-8-18**] 07:00 PM
   Prophylaxis:
   DVT: SC heparin
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call-out after dialysis if pt remains HD stable

2132-08-19 09:47:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points:
   75yo woman with ESRD on HD, HTN, BAD, some cognitive impairment /
   Parkinsonianism who missed at least 2 sessions of HD. PCP called by
   family, sent patient to ER.  Acute decompensation requiring intubation
   aspiration vrs flash pulmonary edema.  Clinically
   improved.
   24 Hour Events:IV labetolol x2, extubated yesterday evening.
 INVASIVE VENTILATION - STOP [**2132-8-18**] 05:17 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   swelling;
   Mellaril (Oral) (Thioridazine Hcl)
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Lithium
   Renal Toxicity;
   Depakote (Oral) (Divalproex Sodium)
   elevated ammoni
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-16**] 09:23 PM
   Ciprofloxacin - [**2132-8-17**] 10:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-18**] 12:48 AM
   Metronidazole - [**2132-8-18**] 08:00 AM
   Azithromycin - [**2132-8-18**] 10:00 PM
   Ceftriaxone - [**2132-8-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-19**] 08:00 AM
   Colace
   Sevelemer
   Perhenazine
   Seraquel
   Levothyroxine
   Lamictal
   Senacal
   Lipitor
   Senna
   Azithromycin
   Ceftriaxone 1gm Q24.
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-19**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 85 (79 - 96) bpm
   BP: 189/74(120) {107/43(8) - 189/90(120)} mmHg
   RR: 26 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 88.8 kg
   Height: 62 Inch
   CVP: 10 (4 - 10)mmHg
   Total In:
                                                                  1,127 mL
                                                                    200 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
                                                                    182 mL
   IVF:
                                                                    595 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                    251 mL
                                                                    205 mL
   Urine:
                                                                    251 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    876 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 386) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.41/37/134/22/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 447
   Physical ExaminationGeneral: Arousable to voice, following commands.
   HEENT: ETT tube in place.
   CV: S1S2 RRR w/o m/r/g
s noted. Lungs: CTA bilaterally anteriorly. No
   crackles / wheezing.
   Ab: Obese, positive BS
s, NT/ND, no masses / HSM noted.  Ext: No c/c/e.
   Neuro: Improved mental status as above.
   Labs / Radiology: Strep Pneumo-Sputum [**8-16**]
   7.2 g/dL
   205 K/uL
   70 mg/dL
   9.4 mg/dL
   22 mEq/L
   5.3 mEq/L
   66 mg/dL
   105 mEq/L
   140 mEq/L
   22.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2132-8-16**]  11:41 PM
                             [**2132-8-17**]  08:16 AM
                             [**2132-8-17**]  08:31 AM
                             [**2132-8-17**]  04:05 PM
                             [**2132-8-17**]  04:11 PM
                             [**2132-8-18**]  03:41 AM
                             [**2132-8-18**]  08:28 AM
                             [**2132-8-18**]  11:36 AM
                             [**2132-8-18**]  04:54 PM
                             [**2132-8-19**]  03:42 AM
   WBC
   27.0
   25.2
   19.3
   15.2
   12.7
   Hct
   28.7
   24.8
   22.9
   23.4
   22.8
   Plt
   221
   208
   207
   216
   205
   Cr
   6.5
   7.0
   7.4
   8.1
   9.4
   TropT
   0.06
   0.10
   TCO2
   25
   25
   24
   24
   Glucose
   69
   86
   94
   87
   70
   Other labs: PT / PTT / INR:14.6/36.9/1.3, CK / CKMB /
   Troponin-T:359/4/0.10, ALT / AST:16/29, Alk Phos / T Bili:70/0.2,
   Amylase / Lipase:518/27, Lactic Acid:1.0 mmol/L, Albumin:3.0 g/dL,
   LDH:184 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan75yo woman with HTN, ESRD on HD, psychiatric and
   other issues who is here after having missed at least two sessions of
   HD with profound hypertension and volume overload. Developed
   respiratory failure requiring intubation and mechanical intubation.
   With  fever, hypotension, and GPCs in sputum concerning for pneumonia
   with sepsis syndrome.
   1)       Respiratory failure: Initially intubated for increased work of
   breathing in the setting of volume overload. Now complicated by
   pneumonia. Initially treated with broad spectrum antibiotics to cover
   VAP and MRSA. Her sputum culture grew Strep Pneumo; perhaps her
   pneumonia is indeed a community-acquired pathogen. Will continue
   Ceftriaxone, Azithromycin and Vanc until sensitivities return.  [**First Name8 (NamePattern2) **]
   [**Location (un) **] therapy to ceftriaxone.
   2)       Blood pressure: Initially hypertensive on admission, but
   transiently required Levophed to maintain her BP in the setting of
   sepsis.  Currently HTN main issue will consider restarting outpatient
   meds if still HTN after dialysis.
   3)       Hyperkalemia / ESRD: Continue Renagel, calcium carbonate.
   Appreciate Renal assistance. Plan for HD on today.
   4)       ID: Follow cultures, continue antibiotics, goal CVP 8-12,
   pressors for BP support as needed, goal MAP >60.
   5)       Psych: Continue home anti-psychotics. Psych
   6)       GI: No active issues. Would d
c stress ulcer prophylaxis.
   7)       Code: Full. Dispo: Call out to floor pending dialysis.
   8)       Access will d
c A-Line,  central line prior to discharge and
   foley.
   9)       FEN: Speech and swallow prior to dispo to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-16**] 02:30 AM
   Multi Lumen - [**2132-8-17**] 02:07 AM
   Arterial Line - [**2132-8-17**] 05:42 AM
   20 Gauge - [**2132-8-18**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 min